### PR TITLE
Construct ring congruence from two sided ideal

### PR DESCRIPTION
**Pull request by maybemabeline**
The ring congruence obtained from an ideal is a congruence on the underlying abelian group, obtained from the underlying subgroup of the ideal. The multiplicative laws for the ideal make sure that this is also a congruence on the underlying monoid, which is proved in the mul-congruence-lemma. It came out a little long but that was the simplest way I could think to do things.
This whole section could be moved to the ideals-rings module, to be more in line with the normal-subgroups and subgroups-of-abelian-groups modules, where their congruences are developed. I'm pretty sure there is also an analogous equivalence between ideals and ring congruences, which could be proved.

### CODE REVIEW

**Comment by maybemabeline** [comment]
I've finished with the construction of the equivalence between two sided ideals and congruence relations on rings. Along the way I proved a characterization of equality between semiring congruences as a subtype of monoid congruences. The characterization of equality of ring congruences then follows from that. I also split up some functions from the rings module into separate sections, analogous with the abelian groups module, and added some functions that were missing.
If everything is alright I think this is ready to merge. I will be busy with some others things in the following weeks so I will work on actual ring quotients at some later date.

File: src/ring-theory/ideals-rings.lagda.md [hunk 1]
```diff
@@ -204,3 +213,380 @@ module _
...
+          ( u)
+          ( e))
+        ( is-closed-under-left-multiplication-ideal-Ring R I
+          ( y)
+          ( add-Ring R (neg-Ring R u) v)
+          ( f))))
+    ( equational-reasoning
+      ( add-Ring R
+        ( mul-Ring R (add-Ring R (neg-Ring R x) y) u)
+        ( mul-Ring R y (add-Ring R (neg-Ring R u) v))) ＝
```
Comment (VojtechStep) [inline src/ring-theory/ideals-rings.lagda.md:355]: We have conventions for formatting equational reasoning chains, they are documented in CODINGSTYLE.md; the `by ...` gets its own line, in this case the `=` goes to the beginning of the line etc.

File: src/ring-theory/rings.lagda.md [hunk 2]
```diff
@@ -27,6 +27,9 @@ open import foundation.sets
 open import foundation.unital-binary-operations
 open import foundation.universe-levels
 
+open import foundation-core.function-types
+open import foundation-core.homotopies
```
Comment (VojtechStep) [inline src/ring-theory/rings.lagda.md:31]: Import from foundation

File: src/ring-theory/congruence-relations-rings.lagda.md [hunk 3]
```diff
@@ -180,3 +213,55 @@ pr1 (pr1 (construct-congruence-Ring R S H K)) = S
 pr2 (pr1 (construct-congruence-Ring R S H K)) = H
 pr2 (construct-congruence-Ring R S H K) = K
 ```
+
+## Properties
+
+### Characterizing equality of congruence relations of rings
+
+```agda
```
Comment (VojtechStep) [inline src/ring-theory/congruence-relations-rings.lagda.md:221]: These definitions could use a module

**Review by VojtechStep — COMMENTED** [review]
Nice PR! I left some nitpicky comments about formatting, but other than that it LGTM.

File: src/ring-theory/congruence-relations-rings.lagda.md (hunk 3 above)
Comment (maybemabeline) [reply src/ring-theory/congruence-relations-rings.lagda.md:221]: I thought that because there were variable amounts of levels and congruences in the hypotheses that it wouldn't be worth it to open a module just for a {l1 : Level} {R : Ring l1}. Should I do it anyway? Thank you for for the other corrections though! I will push them after this is resolved.

Comment (VojtechStep) [reply src/ring-theory/congruence-relations-rings.lagda.md:221]: Oh I missed the different number of levels; yeah on second look I agree that wrapping it in a module wouldn't help much, feel free to keep it like it is 👍

File: src/ring-theory/ideals-rings.lagda.md [hunk 4]
```diff
@@ -204,3 +212,388 @@ module _
...
+  add-congruence-ideal-Ring =
+    ( add-congruence-Subgroup-Ab
+      ( ab-Ring R)
+      ( subgroup-ideal-Ring R I))
+
+  mul-congruence-lemma : {x y u v : type-Ring R} →
+    ( is-in-ideal-Ring R I (add-Ring R (neg-Ring R x) y)) →
+    ( is-in-ideal-Ring R I (add-Ring R (neg-Ring R u) v)) →
+    ( is-in-ideal-Ring R I
+      ( add-Ring R (neg-Ring R (mul-Ring R x u)) (mul-Ring R y v)))
```
Comment (fredrik-bakke) [inline src/ring-theory/ideals-rings.lagda.md:337]: When the type signature spans multiple lines, the colon should be immediately followed by a new line. I.e.
```suggestion
  mul-congruence-lemma :
    { x y u v : type-Ring R} →
    ( is-in-ideal-Ring R I (add-Ring R (neg-Ring R x) y)) →
    ( is-in-ideal-Ring R I (add-Ring R (neg-Ring R u) v)) →
    ( is-in-ideal-Ring R I
      ( add-Ring R (neg-Ring R (mul-Ring R x u)) (mul-Ring R y v)))
```

File: src/ring-theory/ideals-rings.lagda.md [hunk 5]
```diff
@@ -204,3 +212,388 @@ module _
...
+      by
+      ( ap (λ a →
+        ( add-Ring R
+          ( add-Ring R (neg-Ring R (mul-Ring R x u)) (mul-Ring R y v))
+          ( a)))
+        ( right-inverse-law-add-Ring R (mul-Ring R y u)))
+    ＝ ( add-Ring R (neg-Ring R (mul-Ring R x u)) (mul-Ring R y v))
+      by
+      ( right-unit-law-add-Ring R
+        ( add-Ring R (neg-Ring R (mul-Ring R x u)) (mul-Ring R y v))))
```
Comment (fredrik-bakke) [inline src/ring-theory/ideals-rings.lagda.md:423]: This definition isn't completely up to standards.
The name could be more descriptive, and some of the indentation is a bit off. For instance, the convention is to always break the line at the earliest branching point when a definition spans multiple lines, hence when you write `( ap (λ a →` there should be a line break and an increase of indentation between `( ap` and `(λ a →`.

Also, the equational argument is quite long. Have you looked into using other lemmas that can shorten this argument, or perhaps splitting the lemma into multiple smaller lemmas? If you have, and don't have any meaningful simplifications to make, then that's fine and it can stay like this.

File: src/ring-theory/ideals-rings.lagda.md [hunk 6]
```diff
@@ -204,3 +212,388 @@ module _
...
+  is-retraction-ideal-congruence-Ring :
+    ideal-congruence-Ring R (congruence-ideal-Ring R I) ＝ I
+  is-retraction-ideal-congruence-Ring =
+    eq-has-same-elements-ideal-Ring R
+      ( ideal-congruence-Ring R (congruence-ideal-Ring R I))
+      ( I)
+      ( has-same-elements-ideal-congruence-Ring)
+```
+
+#### The congruence relation of the ideal obtained from a congruence relation `S is `S itself
```
Comment (fredrik-bakke) [inline src/ring-theory/ideals-rings.lagda.md:533]:
```suggestion
#### The congruence relation of the ideal obtained from a congruence relation `S` is `S` itself
```

**Review by fredrik-bakke — COMMENTED** [review]
I had a small look at your PR, and have some comments. Your general coding style is very good!

File: src/ring-theory/ideals-rings.lagda.md (hunk 5 above)
Comment (maybemabeline) [reply src/ring-theory/ideals-rings.lagda.md]: The equational reasoning amounts to computing `(-x + y)u + y(-u + v) = -xu + yv`. The last 4 steps could be gathered up into something like an add-and-subtract function that computes `(a - b) + (b + c) = a + c`. Would that be a worthwhile lemma?
I will fix the indentation. Other that, it is correct to have a line break after `(λ a →` though, right?
Regarding the name, I really didn't know what to call it. It has the same signature as `mul-congruence-Ring`, just written out a lot more explicitly. Maybe `is-congruence-monoid-mul-congruence-ideal-Ring`?

Comment (fredrik-bakke) [reply src/ring-theory/ideals-rings.lagda.md]: > The last 4 steps could be gathered up into something like an add-and-subtract function that computes `(a - b) + (b + c) = a + c`. Would that be a worthwhile lemma?

Yeah, that sounds reasonable. It can be called something like `subtract-and-add-Ring`.

> I will fix the indentation. Other that, it is correct to have a line break after `(λ a →` though, right?

Yes, if what comes after it does not fit on the remainder of the line.

> Regarding the name, I really didn't know what to call it. It has the same signature as `mul-congruence-Ring`, just written out a lot more explicitly. Maybe `is-congruence-monoid-mul-congruence-ideal-Ring`?

Great, that's a much better name than `mul-congruence-lemma`!

File: src/ring-theory/ideals-rings.lagda.md [hunk 7]
```diff
@@ -204,3 +212,389 @@ module _
...
+        ( mul-Ring R y (add-Ring R (neg-Ring R u) v)))
+    ＝ ( add-Ring R
+        ( mul-Ring R (add-Ring R (neg-Ring R x) y) u)
+        ( add-Ring R (mul-Ring R y (neg-Ring R u)) (mul-Ring R y v)))
+      by
+      ( ap (λ a →
+        ( add-Ring R
+          ( mul-Ring R (add-Ring R (neg-Ring R x) y) u)
+          ( a)))
+        ( left-distributive-mul-add-Ring R y (neg-Ring R u) v))
```
Comment (fredrik-bakke) [inline src/ring-theory/ideals-rings.lagda.md:364]: For demonstration, this should be

```agda
      ( ap
        ( λ a →
          add-Ring R
          ( mul-Ring R (add-Ring R (neg-Ring R x) y) u)
          ( a))
        ( left-distributive-mul-add-Ring R y (neg-Ring R u) v))
```

But now that I look at it again, this can be simplified further by removing the lambda abstraction and application:

```suggestion
      ( ap
        ( add-Ring R (mul-Ring R (add-Ring R (neg-Ring R x) y) u))
        ( left-distributive-mul-add-Ring R y (neg-Ring R u) v))
```

Comment (maybemabeline) [reply src/ring-theory/ideals-rings.lagda.md]: I fixed the indentation to be in line with this suggestion, but now I am again not sure about the indentation in the new add-and-subtract function, it looks a bit messy, but I'm not sure how to change it.

File: src/ring-theory/rings.lagda.md [hunk 8]
```diff
@@ -298,6 +298,27 @@ module _
...
+      ( commutative-add-Ring R x y))
+    ＝ add-Ring R (add-Ring R y (neg-Ring y)) (add-Ring R x z)
+    by interchange-add-add-Ring R y x (neg-Ring y) z
+    ＝ add-Ring R (zero-Ring R) (add-Ring R x z)
+    by
+    ( ap
+      ( add-Ring' R (add-Ring R x z))
+      ( right-inverse-law-add-Ring y))
+    ＝ add-Ring R x z
+    by left-unit-law-add-Ring R (add-Ring R x z)
```
Comment (fredrik-bakke) [inline src/ring-theory/rings.lagda.md:321]: Equational reasoning is a bit of a grey area when it comes to indentation, but I would personally indent it as follows:

```suggestion
  add-and-subtract-Ring :
    (x y z : type-Ring R) →
    add-Ring R (add-Ring R x y) (add-Ring R (neg-Ring y) z) ＝ add-Ring R x z
  add-and-subtract-Ring x y z =
    equational-reasoning
      add-Ring R (add-Ring R x y) (add-Ring R (neg-Ring y) z)
      ＝ add-Ring R (add-Ring R y x) (add-Ring R (neg-Ring y) z)
        by
        ( ap
          ( add-Ring' R (add-Ring R (neg-Ring y) z))
          ( commutative-add-Ring R x y))
      ＝ add-Ring R (add-Ring R y (neg-Ring y)) (add-Ring R x z)
        by interchange-add-add-Ring R y x (neg-Ring y) z
      ＝ add-Ring R (zero-Ring R) (add-Ring R x z)
        by
        ( ap
          ( add-Ring' R (add-Ring R x z))
          ( right-inverse-law-add-Ring y))
      ＝ add-Ring R x z
        by left-unit-law-add-Ring R (add-Ring R x z)
```

**Comment by fredrik-bakke** [comment]
Alright, I think this PR is ready to be merged. I will do that once the checks have passed. 😊

File: src/ring-theory/rings.lagda.md [hunk 9]
```diff
@@ -230,6 +295,30 @@ module _
     (x y : type-Ring R) →
     neg-Ring (add-Ring R x y) ＝ add-Ring R (neg-Ring x) (neg-Ring y)
   distributive-neg-add-Ring = distributive-neg-add-Ab (ab-Ring R)
+
+  neg-zero-Ring : neg-Ring (zero-Ring R) ＝ (zero-Ring R)
+  neg-zero-Ring = neg-zero-Ab (ab-Ring R)
+
+  add-and-subtract-Ring :
+    (x y z : type-Ring R) →
+    add-Ring R (add-Ring R x y) (add-Ring R (neg-Ring y) z) ＝ add-Ring R x z
```
Comment (EgbertRijke) [inline src/ring-theory/rings.lagda.md:304]: This property actually can be stated and proven for arbitrary groups. Two closely related statements are `mul-left-div-Group` and `mul-right-div-Group`. In the file of abelian groups, these are stated as `add-left-subtraction-Ab` and `add-right-subtraction-Ab`. 

Perhaps you could add small lemmas after those two lemmas in the `groups` and `abelian-groups` files and then use the one for abelian groups here, instead of deriving it separately for rings.

Comment (EgbertRijke) [reply src/ring-theory/rings.lagda.md:304]: I see my comment is already not relevant anymore, because the PR got merged while I was typing it up:) No worries about this. I have some work on groups/abelian groups in the pipeline and I can easily make these changes myself. Congrats on the good PR!

Comment (fredrik-bakke) [reply src/ring-theory/rings.lagda.md:304]: Sorry about that. I didn't realize you wanted to say more about this PR.

Comment (EgbertRijke) [reply src/ring-theory/rings.lagda.md:304]: No big deal. It's a great PR and deserved the merge
